US07897607B2
N-[(6-Bromopyridin-2-yl)methyl]-N-propylpropan-1-amine
Dipropylamine (7.4 mL, 54 mmol) and 6-bromopyridine-2-carbaldehyde (5.0 g, 27 mmol) were dissolved in 1,2-dichloroethane (50 mL). 2 drops of glacial acetic acid was added followed by sodium triacetoxyborohydride (11.4 g, 54 mmol). The reaction was stirred at 50° C. for 1 h. The reaction was cooled and quenched with water. The solution was diluted with saturated sodium bicarbonate and extracted with ethyl acetate (3 times). The organic layers were dried over magnesium sulfate, filtered and concentrated. Flash chromatography gave 5.34 g (73% yield) of product.

reactant | Dipropylamine | 54 mmol, 7.4 mL | C(CC)NCCC | C6H15N
reactant | 6-bromopyridine-2-carbaldehyde | 27 mmol, 5.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | sodium triacetoxyborohydride | 54 mmol, 11.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | N-[(6-Bromopyridin-2-yl)methyl]-N-propylpropan-1-amine | 5.34 g, 73% yield | BrC1=CC=CC(=N1)CN(CCC)CCC | C12H19BrN2
